US09126931B2
10,10-Dimethyl-8-(4-morpholin-4-yl-piperidin-1-yl)-5-oxo-10,11-dihydro-5H-1,11-diaza-benzo[b]fluorene-2-carbonitrile
According to the method used for synthesizing Compound B2-1, trifluoromethanesulfonic acid 2-cyano-10,10-dimethyl-5-oxo-10,11-dihydro-5H-1,11-diaza-benzo[b]fluoren-8-yl ester was introduced with 4-morpholin-4-yl piperidine to obtain the title compound.

reactant | trifluoromethanesulfonic acid 2-cyano-10,10-dimethyl-5-oxo-10,11-dihydro-5H-1,11-diaza-benzo[b]fluoren-8-yl ester | C(#N)C=1C=CC=2C=3C(C4=C(C(C3NC2N1)(C)C)C=C(C=C4)OS(=O)(=O)C(F)(F)F)=O | C19H12F3N3O4S
reactant | 4-morpholin-4-yl piperidine | N1(CCOCC1)C1CCNCC1 | C9H18N2O
product | 10,10-Dimethyl-8-(4-morpholin-4-yl-piperidin-1-yl)-5-oxo-10,11-dihydro-5H-1,11-diaza-benzo[b]fluorene-2-carbonitrile | CC1(C2=C(C(C=3C=4C=CC(=NC4NC13)C#N)=O)C=CC(=C2)N2CCC(CC2)N2CCOCC2)C | C27H29N5O2
